US07465726B2
Naphthalen-1-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine
A sealed tube containing a solution of 4-(4-chloro-7H-pyrrolo[2,3-d]-pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (250 mg, 0.75 mmol), 1-naphthylamine (160 mg, 1.12 mmol) and trifluoroacetic acid (287 μL, 3.73 mmol) in 2,2,2-trifluoroethanol (5 mL) was heated at 80° C. and maintained at this temperature overnight. The product was poured into saturated NaHCO3 solution (50 mL) and the precipitate was filtered off, giving the title compound as an off-white solid. 1H NMR (DMSO-d6, 400 MHz): δ=9.48 (1H, s), 8.14-7.92 (3H, m), 7.82 (1H, d, J=8.0 Hz), 7.64 (1H, d, J=7.2 Hz), 7.61-7.44 (3H, m), 6.40 (1H, s), 4.02 (2H, brs), 3.51 (2H, brs), 2.89 (2H, brs); MS (ES+): m/z 342.11 [MH+], HPLC: tR=1.71 min (MicromassZQ, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]-pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.75 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 1-naphthylamine | 1.12 mmol, 160 mg | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | trifluoroacetic acid | 3.73 mmol, 287 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | 2,2,2-trifluoroethanol | 5 mL | FC(CO)(F)F | C2H3F3O
product | Naphthalen-1-yl-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]amine | C1(=CC=CC2=CC=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2 | C21H19N5
